US04668697
5-Bromomethyl-2-sulfamoylbenzo[b]thiophene
To a suspension of 5-methoxymethyl-2sulfamoylbenzo[b]thiophene (7.4 g, 0.029 mol) in 300 ml of dry methylene chloride cooled to -30° C. was added boron tribromide (30 ml of a lM solution in methylene chloride, 0.03 mol) over a 20 minute period. The resulting solution was stirred for 11/2 hours as the temperature rose to ambient. The solution was cooled to 0° C. and there was added dropwise 150 ml of water keeping the temperature below 20° C. The methylene chloride layer was separated and the aqueous suspension was extracted with three portions (200 ml) of methanol-chloroform (50/50). The combined extracts were washed with ice water, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give 8.8 g of tan solid (quantitative yield of crude product) which after recrystallization from 1,2-dichloroethane had m.p. 171°-173° C.

reactant | 5-methoxymethyl-2sulfamoylbenzo[b]thiophene | 0.029 mol, 7.4 g | COCC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C10H11NO3S2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | 150 ml | O | H2O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromomethyl-2-sulfamoylbenzo[b]thiophene | 8.8 g, quantitative yield | BrCC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C9H8BrNO2S2
